US07446203B2
The mixture of 5,6-dimethoxy-2-(4-pyridyl)methylene-1-indanone (34 gm), methanol (325 ml), methylenedichloride (200 ml) and 5% palladium-charcoal (2 gm) is taken in a hydrogenation flask and subjected to hydrogenation under a hydrogen pressure of 2 bars for 3 hours. The catalyst is removed by filtration and the solvents are evaporated completely under vacuum to obtain a residue. Ethyl acetate (150 ml) is added to the residue and stirred for 20 minutes at 25° C. to 30° C. The contents are then cooled to 0° C., stirred for 30 minutes and filtered to give 34 gm of 5,6-dimethoxy-2-(4-pyridyl)methyl-1-indanone.

reactant | 5,6-dimethoxy-2-(4-pyridyl)methylene-1-indanone | 34 gm | COC=1C=C2CC(C(C2=CC1OC)=O)=CC1=CC=NC=C1 | C17H15NO3
reactant | methanol | 325 ml | CO | CH4O
reactant | methylenedichloride | 200 ml | C(Cl)Cl | CH2Cl2
catalyst | palladium-charcoal | 2 gm | [Pd] | Pd
solvent | Ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 5,6-dimethoxy-2-(4-pyridyl)methyl-1-indanone | 34 gm | COC=1C=C2CC(C(C2=CC1OC)=O)CC1=CC=NC=C1 | C17H17NO3
